US09282744B2
62% Benziothiazolinone.Iprodione Water Dispersible Granule
60% benziothiazolinone, 2% iprodione, 2% sodium dodecyl sulfonate, 2% sodium alkyl naphthalene sulfonate, 3% ammonium sulfate, complemented to 100% with light calcium carbonate.

reactant | iprodione | CC(C)NC(=O)N1CC(=O)N(C1=O)C=2C=C(C=C(C2)Cl)Cl | C13H13Cl2N3O3
reactant | sodium dodecyl sulfonate | C(CCCCCCCCCCC)S(=O)(=O)[O-].[Na+]
reactant | ammonium sulfate | S(=O)(=O)([O-])[O-].[NH4+].[NH4+]
reactant | calcium carbonate | C([O-])([O-])=O.[Ca+2]
product | Iprodione Water | CC(C)NC(=O)N1CC(=O)N(C1=O)C=2C=C(C=C(C2)Cl)Cl.O | InChI=1S/C13H13Cl2N3O3.H2O/c1-7(2)16-12(20)17-6-11(19)18(13(17)21)10-4-8(14)3-9(15)5-10;/h3-5,7H,6H2,1-2H3,(H,16,20);1H2
